### PR TITLE
Add cpp.spec coverage for 7 standard-library headers (cwctype, cstdlib int, cwchar, bit, numeric, memory)

### PR DESCRIPTION
**Pull request by mahadkhan811**
Adds black-box `cpp.spec` contracts for seven standard-library headers, each with a
C++ oracle-client test and its proof. Builds against the current toolchain; each family
is self-contained (no cross-PR dependencies).

## Families

| dir | header | functions |
|---|---|---|
| `proof/cwctype` | `<cwctype>` | 12 classifiers (`iswalpha`…`iswxdigit`) + `towlower`/`towupper` |
| `proof/cstdlib_intmath` | `<cstdlib>` | `abs`/`labs`/`llabs`, `div`/`ldiv`/`lldiv` |
| `proof/cwchar` | `<cwchar>` | `wcslen`, `wcscmp`, `wcsncmp`, `wcschr`, `wcsrchr`, `wmemcmp`, `wmemchr` |
| `proof/cwchar_copy` | `<cwchar>` | `wcscpy`, `wcsncpy`, `wcscat`, `wcsncat`, `wmemcpy`, `wmemmove`, `wmemset`, `wcscoll`, `wcsxfrm` |
| `proof/bit` | `<bit>` | `popcount`, `countl_zero/one`, `countr_zero/one`, `bit_width`, `bit_ceil`, `bit_floor`, `has_single_bit`, `rotl`, `rotr` |
| `proof/numeric` | `<numeric>` | `gcd`, `lcm` |
| `proof/memory_align` | `<memory>` | `std::align` |

Each family: `proof/<dir>/{model,pred,spec}.v` + `inc_<dir>.cpp`; `test/<dir>/` holds the
client `.cpp` and its proof.

## Build, step through, reproduce

```sh
dune build                                       # whole library, including the new families
dune build proof/cwctype test/cwctype/proof.vo   # a single family (spec + its proved client)
```

Step through a contract interactively: open `proof/<dir>/spec.v` in vsRocq.

Reproduced from clean: `rm -rf _build && dune build` passes, and `dune build @dune_inc`
is clean (the committed `dune.inc` matches the generator — no manual regeneration).

## Notes

- `numeric` and `bit` are function templates, specified at concrete instantiations
  (`gcd<int,int>` and `gcd<int,long long>`; `popcount<unsigned int>`, etc.).
- `cstdlib_intmath` and `cwchar_copy` are kept as separate directories to stay
  self-contained; fold them into `proof/cstdlib` / `proof/cwchar` if preferred.

### CODE REVIEW

File: rocq-brick-libstdcpp/test/bit/test_cpp_proof.v [hunk 1]
```diff
@@ -0,0 +1,108 @@
...
+
+Section with_cpp.
+  Context `{Σ : cpp_logic, σ : genv}.
+  Context `{MOD : test_cpp.source ⊧ σ}.
+
+  cpp.spec "use_popcount(unsigned int)" as use_popcount_spec from source with (
+    \arg{x} "x" (Vint x)
+    \post[Vint (popcount (Z.to_N x))] emp).
+  Lemma use_popcount_ok : verify[source] "use_popcount(unsigned int)".
+  Proof. verify_spec; go $usenamed=true. Qed.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/bit/test_cpp_proof.v:16]: `go $usenamed=true` should just be `go`

File: rocq-brick-libstdcpp/proof/bit/model.v [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+Definition uint32_max : N := (uint32_modulus - 1)%N.
+Definition uint32_high_bit : N := (2 ^ 31)%N.
+Definition int32_min : Z := (-2147483648)%Z.
+Definition int32_max : Z := 2147483647%Z.
+
+Definition valid_uint32 (x : N) : Prop := (x < uint32_modulus)%N.
+Definition valid_int32 (s : Z) : Prop :=
+  (int32_min <= s <= int32_max)%Z.
+Definition valid_int32b (s : Z) : bool :=
+  Z.leb int32_min s && Z.leb s int32_max.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/bit/model.v:19]: Spec tech debt: We have existing concepts for validity, and the model is happily reinventing those.

File: rocq-brick-libstdcpp/proof/bit/model.v [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+
+Fixpoint popcount_loop (fuel : nat) (x : N) : nat :=
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/bit/model.v:21]: Defining computations on `nat` is risky, they can take exponential time on concrete inputs if you're unlucky.

File: rocq-brick-libstdcpp/proof/bit/model.v [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+
+Definition rotr_api (x : N) (s : Z) : option N :=
+  if N.ltb x uint32_modulus then
+    if valid_int32b s then Some (rotr x s) else None
+  else None.
+
+(** The standard-defined domain boundary is load-bearing. *)
+Example bit_ceil_high_bit_is_defined :
+  bit_ceil_api uint32_high_bit = Some uint32_high_bit.
+Proof. vm_compute. reflexivity. Qed.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/bit/model.v:142]: This pollutes the environment for no good reason.
```suggestion
Proof. vm_compute. reflexivity. Fail Qed. Abort.
```

File: rocq-brick-libstdcpp/proof/bit/spec.v [hunk 5]
```diff
@@ -0,0 +1,71 @@
...
+
+#[local] Open Scope Z_scope.
+
+Section with_cpp.
+  Context `{Σ : cpp_logic, σ : genv}.
+
+  cpp.spec "std::popcount<unsigned int>(unsigned int)" as popcount_spec
+    from inc_bit_cpp.source with (
+      \arg{x} "__x" (Vint x)
+      \post[Vint (popcount (Z.to_N x))] emp).
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/bit/spec.v:14]: It's more idiomatic to prefer `Vn` in specs like these:

```suggestion
  cpp.spec "std::popcount<unsigned int>(unsigned int)" as popcount_spec
    from inc_bit_cpp.source with (
      \arg{x} "__x" (Vn x)
      \post[Vint (popcount x)] emp).
```

File: rocq-brick-libstdcpp/proof/bit/spec.v [hunk 6]
```diff
@@ -0,0 +1,71 @@
...
+  cpp.spec "std::bit_width<unsigned int>(unsigned int)" as bit_width_spec
+    from inc_bit_cpp.source with (
+      \arg{x} "__x" (Vint x)
+      \post[Vint (bit_width (Z.to_N x))] emp).
+
+  cpp.spec "std::bit_ceil<unsigned int>(unsigned int)" as bit_ceil_spec
+    from inc_bit_cpp.source with (
+      \arg{x} "__x" (Vint x)
+      \require (0 <= x <= Z.of_N uint32_high_bit)
+      \post[Vint (Z.of_N (bit_ceil (Z.to_N x)))] emp).
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/bit/spec.v:47]:
```suggestion
  cpp.spec "std::bit_ceil<unsigned int>(unsigned int)" as bit_ceil_spec
    from inc_bit_cpp.source with (
      \arg{x} "__x" (Vn x)
      \require (0 <= x <= uint32_high_bit)%N
      \post[Vn (bit_ceil x)] emp).
```

File: rocq-brick-libstdcpp/proof/cstdlib_intmath/model.v [hunk 7]
```diff
@@ -0,0 +1,68 @@
...
+Definition representable (range : value_range) (z : Z) : bool :=
+  let '(lo, hi) := range in
+  (lo <=? z) && (z <=? hi).
+
+(** Defined-domain adapter for an absolute-value contract. *)
+Definition abs_adapter (range : value_range) (n : Z) : option Z :=
+  if representable range n && representable range (Z.abs n)
+  then Some (Z.abs n)
+  else None.
+
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/cstdlib_intmath/model.v:24]: This appears unused?
```suggestion
```

File: rocq-brick-libstdcpp/proof/cstdlib_intmath/model.v [hunk 8]
```diff
@@ -0,0 +1,68 @@
...
+(** Exact mathematical result of the [int] absolute-value overload. *)
+Definition abs_int (n : Z) : Z := Z.abs n.
+
+(** Exact mathematical result of the [long] absolute-value overload. *)
+Definition abs_long (n : Z) : Z := Z.abs n.
+
+(** Exact mathematical result of the [long long] absolute-value overload. *)
+Definition abs_long_long (n : Z) : Z := Z.abs n.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/cstdlib_intmath/model.v:42]: These wrappers appear to provide negative value — definitions are abstraction barriers for some automation.

File: rocq-brick-libstdcpp/proof/cstdlib_intmath/spec.v [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+
+  cpp.spec "llabs" with
+    (\arg{n} "__x" (Vint n)
+     \require valid<"long long"> (Z.abs n)
+     \post[Vint (llabs n)] emp).
+
+  cpp.spec "div" as div_int_spec with
+    (\arg{numer} "__numer" (Vint numer)
+     \arg{denom} "__denom" (Vint denom)
+     \require denom <> 0 /\ valid<"int"> (Z.quot numer denom) /\
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/cstdlib_intmath/spec.v:46]: More idiomatic: Prefer separate `\require` clauses over conjunctions.

File: rocq-brick-libstdcpp/test/cstdlib_intmath/test.cpp [hunk 10]
```diff
@@ -0,0 +1,81 @@
...
+    assert(via_overload.rem == via_named.rem);
+}
+
+void test_intmath_composition() {
+    std::div_t qr = std::div(-369, 10);
+    assert(qr.quot * 10 + qr.rem == -369);
+    assert(std::abs(qr.rem) == 9);
+}
+
+// These functions are translated as boundary witnesses but intentionally have
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/cstdlib_intmath/test.cpp:69]: What is a boundary witness?

File: rocq-brick-libstdcpp/test/cstdlib_intmath/test_cpp_proof.v [hunk 11]
```diff
@@ -0,0 +1,61 @@
...
+  Proof. verify_spec; go $usenamed=true. Qed.
+
+  cpp.spec "test_abs_long_long()" default.
+  Lemma test_abs_long_long_ok : verify[module] "test_abs_long_long()".
+  Proof. verify_spec; go $usenamed=true. Qed.
+
+  cpp.spec "test_div_int()" default.
+  Lemma test_div_int_ok : verify[module] "test_div_int()".
+  Proof. verify_spec; go $usenamed=true. 
+all: repeat (iExists _); iFrame.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/cstdlib_intmath/test_cpp_proof.v:29]: Not properly indented.

File: rocq-brick-libstdcpp/test/cwchar/oracle_cpp_proof.v [hunk 12]
```diff
@@ -0,0 +1,191 @@
...
+    verify[module]
+      "oracle_wmemchr_mutable(wchar_t*, wchar_t, unsigned long)".
+  Proof.
+    verify_spec; go $usenamed=true.
+    iExists q, raw. go $usenamed=true.
+  Qed.
+
+End oracle_clients.
+
+(* Live-authored proofs for the <cwchar> oracle clients. *)
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/cwchar/oracle_cpp_proof.v:191]: I'm not sure what "oracle" means here, but my first reaction is that `rocq-brick-libstdcpp/test/cwchar` should be deleted. These proofs don't test anything.

File: rocq-brick-libstdcpp/test/cwchar_copy/oracle.cpp [hunk 13]
```diff
@@ -0,0 +1,43 @@
+#include <cwchar>
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/cwchar_copy/oracle.cpp:1]: Delete `rocq-brick-libstdcpp/test/cwchar_copy`.

File: rocq-brick-libstdcpp/proof/cwchar_copy/inc_cwchar_copy.cpp [hunk 14]
```diff
@@ -0,0 +1 @@
+#include <cwchar>
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/cwchar_copy/inc_cwchar_copy.cpp:1]: Why do we have a `_copy` folder?

**Review by pgiarrusso-sl — CHANGES_REQUESTED** [review]
Thanks for the PR, but the code appears to have significant problems.

The `_copy` folders are off.

And tests like these are the most significant problem, because they're effectively not testing much.
```
std::size_t oracle_wcslen(const wchar_t* text) {
  return ::wcslen(text);
}
```
